US08497264B2
To a solution of vinylmagnesium chloride (6.86 mL, 10.97 mmol) at −78° C. under nitrogen atmosphere was added drop wise a solution of 2-bromo-7-iodo-9H-xanthen-9-one (2.00 g, 4.99 mmol) in THF (30 mL). The reaction mixture was allowed to slowly warm to −10° C., then the reaction was quenched with saturated NH4Cl. The mixture was extracted with EtOAc followed by a solvent mixture of CHCl3: i-PrOH (3:1). The combined organic layers were dried over Na2SO4 and concentrated under reduced pressure. The crude material was purified by filtration over silica gel (10% EtOAc/hexane) to give 2.14 g of 2-bromo-7-iodo-9-vinyl-9H-xanthen-9-ol as a white solid.

reactant | vinylmagnesium chloride | 10.97 mmol, 6.86 mL | C(=C)[Mg]Cl
reactant | 2-bromo-7-iodo-9H-xanthen-9-one | 4.99 mmol, 2.00 g | BrC1=CC=2C(C3=CC(=CC=C3OC2C=C1)I)=O | C13H6BrIO2
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 2-bromo-7-iodo-9-vinyl-9H-xanthen-9-ol | 2.14 g | BrC1=CC=2C(C3=CC(=CC=C3OC2C=C1)I)(O)C=C | C15H10BrIO2
